US08476255B2
Synthesis of 3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-en-1-ol
In a 100 mL round bottom flask lithium aluminium hydride WAIN (0.28 g, 7.2 mmol) in tetrahydrofuran (THF) was taken and cooled to 0-5° C., to which methyl-3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoate (2 g, 6.09 mmol) dissolved in THF (15 mL) was added drop wise using dropping funnel. The reaction mixture was stirred for 1 hour at same temperature and the reaction was monitored by TLC. Upon the completion of reaction, added ethyl acetate (50 mL) drop wise followed by cold water (50 mL). The organic layer was separated and the aqueous layer further extracted with ethyl acetate (50 mL). The combined organic layer was washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to give pure compound (1 g, 55%).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl-3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-enoate | 6.09 mmol, 2 g | COC(C(=CC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)OC)=O | C19H20O5
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 15 mL | O1CCCC1 | C4H8O
product | 3-(3,4-dimethoxyphenyl)-2-(4-methoxyphenyl)prop-2-en-1-ol | 1 g, 55% | COC=1C=C(C=CC1OC)C=C(CO)C1=CC=C(C=C1)OC | C18H20O4
